US07846960B2
4-Hydroxy-2-methyl-benzoic Acid Methyl Ester
The title compound (77%) is prepared essentially according to the preparation of 5-hydroxy-2-propyl-benzoic acid methyl ester using 4-methoxy-2-methyl-benzoic acid methyl ester. 1H NMR (400 MHz, CDCl3) δ 7.91-7.86 (m, 1H), 6.72-6.67 (m, 2H), 3.86 (s, 3H), 2.57 (s, 3H).

reactant | 5-hydroxy-2-propyl-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)O)CCC)=O | C11H14O3
reactant | 4-methoxy-2-methyl-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OC)C)=O | C10H12O3
product | 4-Hydroxy-2-methyl-benzoic Acid Methyl Ester | 77% | COC(C1=C(C=C(C=C1)O)C)=O | C9H10O3
